### PR TITLE
feat: BitVec lemmas for smtUDiv, smtSDiv when denominator is zero

### PR DESCRIPTION
**Pull request by bollu**
This PR is a follow-up to https://github.com/leanprover/lean4/pull/5609, where we add lemmas characterizing `smtUDiv` and `smtSDiv`'s behavior when the denominator is zero.

We build some `slt` theory, connecting it to `msb` for a clean proof. I chose not to characterize `slt` in terms of `msb` a `simp` lemma, since I anticipate use cases where we want to keep the arithmetic interpretation of `slt`.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -1351,6 +1377,13 @@ theorem toNat_udiv {x y : BitVec n} : (x.udiv y).toNat = x.toNat / y.toNat := by
   · rw [toNat_ofNat, Nat.mod_eq_of_lt]
     exact Nat.lt_of_le_of_lt (Nat.div_le_self ..) (by omega)
 
+/-! ### smtUDiv -/
+
+theorem smtUDiv_eq {x y : BitVec n} : x.smtUDiv y = if y = 0 then allOnes n else udiv x y := rfl
+
+@[simp]
+theorem smtUDiv_zero {x : BitVec n} : x.smtUDiv 0#n = allOnes n := rfl
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1385]:
```suggestion
theorem smtUDiv_eq {x y : BitVec w} : x.smtUDiv y = if y = 0 then allOnes w else udiv x y := rfl

@[simp]
theorem smtUDiv_zero {x : BitVec w} : x.smtUDiv 0#n = allOnes w := rfl
```

Maybe lets stick to `w` as width for some more consistency in this file.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -2039,6 +2072,20 @@ theorem sub_eq_xor {a b : BitVec 1} : a - b = a ^^^ b := by
...
+theorem smtSDiv_eq {x y : BitVec n} : x.smtSDiv y =
+  match x.msb, y.msb with
+  | false, false => smtUDiv x y
+  | false, true  => .neg (smtUDiv x (.neg y))
+  | true,  false => .neg (smtUDiv (.neg x) y)
+  | true,  true  => smtUDiv (.neg x) (.neg y) := rfl
+
+@[simp]
+theorem smtSDiv_zero {x : BitVec n} : x.smtSDiv 0#n = if x.slt 0#n then 1 else -1 := by
+  simp [smtSDiv]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2086]:
```suggestion
theorem smtSDiv_zero {x : BitVec n} : x.smtSDiv 0#n = if x.slt 0#n then 1#w else (allOnes w) := by
  simp [smtSDiv]
```

Should we use `1#w` as simp normal form and `allOnes w` to model all ones?

**Review by tobiasgrosser — APPROVED** [review]

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -473,6 +473,32 @@ theorem eq_zero_or_eq_one (a : BitVec 1) : a = 0#1 ∨ a = 1#1 := by
     subst h
     simp
 
+@[simp]
+theorem toInt_zero {w : Nat} : (0#w).toInt = 0 := by
+  simp [BitVec.toInt]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:478]:
```suggestion
theorem toInt_zero {w : Nat} : (0#w).toInt = 0#w := by
  simp [BitVec.toInt]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -1351,6 +1377,13 @@ theorem toNat_udiv {x y : BitVec n} : (x.udiv y).toNat = x.toNat / y.toNat := by
   · rw [toNat_ofNat, Nat.mod_eq_of_lt]
     exact Nat.lt_of_le_of_lt (Nat.div_le_self ..) (by omega)
 
+/-! ### smtUDiv -/
+
+theorem smtUDiv_eq {x y : BitVec n} : x.smtUDiv y = if y = 0 then allOnes n else udiv x y := rfl
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1383]:
```suggestion
theorem smtUDiv_eq {x y : BitVec n} : x.smtUDiv y = if y = 0#w then allOnes n else udiv x y := rfl

```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 2 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean]: Done.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -2039,6 +2071,20 @@ theorem sub_eq_xor {a b : BitVec 1} : a - b = a ^^^ b := by
...
+theorem smtSDiv_eq {x y : BitVec n} : x.smtSDiv y =
+  match x.msb, y.msb with
+  | false, false => smtUDiv x y
+  | false, true  => .neg (smtUDiv x (.neg y))
+  | true,  false => .neg (smtUDiv (.neg x) y)
+  | true,  true  => smtUDiv (.neg x) (.neg y) := rfl
+
+@[simp]
+theorem smtSDiv_zero {x : BitVec n} : x.smtSDiv 0#n = if x.slt 0#n then 1#n else (allOnes n) := by
+  simp [smtSDiv]
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Lemmas.lean:2085]: non terminal simp

**Comment by bollu** [comment]
awaiting-review
